US07601843B2
N-[1-[(3-Methoxycarbonyl-1-tricyclo[3.3.1.13,7]decyl)methyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide hydrochloride
After dissolving methyl 3-[4-(5-methylpyridin-2-yl)aminopiperidin-1-ylmethyl]tricyclo[3.3.1.13,7]decane-1-carboxylate (0.2248 g, 0.565 mmol) in methylene chloride (5 mL), triethylamine (0.12 g, 1.21 mmol) was added at room temperature. Next, 2-furoyl chloride (0.071 mL, 0.724 mmol) was added dropwise while cooling on ice, and the mixture was stirred at room temperature for 16 hours. The reaction mixture was then subjected to chromatography (100 g Merck Art. 9385, methylene chloride:methanol:ammonia water=98:2:0.1-97:3:0.2) without pretreatment, to obtain the free form of the title compound as a colorless oil (0.2675 g, 0.544 mmol) (96% yield). This was further subjected to hydrochloride salification to obtain the title compound as a white solid (0.2951 g, 0.522 mmol) (96% yield).

reactant | methyl 3-[4-(5-methylpyridin-2-yl)aminopiperidin-1-ylmethyl]tricyclo[3.3.1.13,7]decane-1-carboxylate | 0.565 mmol, 0.2248 g | CC=1C=CC(=NC1)NC1CCN(CC1)CC12CC3(CC(CC(C1)C3)C2)C(=O)OC | C24H35N3O2
reactant | triethylamine | 1.21 mmol, 0.12 g | C(C)N(CC)CC | C6H15N
reactant | 2-furoyl chloride | 0.724 mmol, 0.071 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | ammonia water | O.N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | N-[1-[(3-Methoxycarbonyl-1-tricyclo[3.3.1.13,7]decyl)methyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide hydrochloride | 0.544 mmol, 0.2675 g, 96% yield | Cl.COC(=O)C12CC3(CC(CC(C1)C3)C2)CN2CCC(CC2)N(C(=O)C=2OC=CC2)C2=NC=C(C=C2)C | InChI=1S/C29H37N3O4.ClH/c1-20-5-6-25(30-17-20)32(26(33)24-4-3-11-36-24)23-7-9-31(10-8-23)19-28-13-21-12-22(14-28)16-29(15-21,18-28)27(34)35-2;/h3-6,11,17,21-23H,7-10,12-16,18-19H2,1-2H3;1H
